US07589072B2
6-Boc-aminohexanoic acid
6-Aminocaproic acid (10 g, 76 mmo) was dissolved in tert-butylalcohol (100 ml), 5N NaOH (15 ml, 76 mmol) was added thereto, and the mixture was stirred at room temperature for 10 minutes. Di-tert-butyl-dicarbonate (18.3 g, 83 mmol) dissolved in tert-butylalcohol (100 ml) was added thereto and stirred at room temperature for 24 hours. Then, water (100 ml) was added thereto and the mixture was concentrated under a reduced pressure, cooled to 0° C., and then, 2N H2SO4 was added thereto dropwise until pH of the mixture became 2. Thereafter, the resultant was extracted with ethyl acetate, the extract was washed with water, dried over MgSO4 and concentrated. The concentrate was purified using column chromatography (ethyl acetate:toluene:acetic acid=20:10:0.3) to obtain the title compound (17.9 g) as a white solid.

reactant | 6-Aminocaproic acid | 10 g | NCCCCCC(=O)O | C6H13NO2
reactant | NaOH | 76 mmol, 5N, 15 ml | [OH-].[Na+]
reactant | Di-tert-butyl-dicarbonate | 83 mmol, 18.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 ml | O | H2O
reactant | tert-butylalcohol | 100 ml | C(C)(C)(C)O | C4H10O
reactant | tert-butylalcohol | 100 ml | C(C)(C)(C)O | C4H10O
product | 6-Boc-aminohexanoic acid | 17.9 g | C(=O)(OC(C)(C)C)CCCCC(C(=O)O)N | C11H21NO4
